US04016281
3.51 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-hydroxy-1-tetralone are dissolved in a mixture of 45 ml. of methanol and 5 ml. of water. An ethereal solution of diazomethane is added at 20° until a faint yellow coloration remains. The mixture is evaporated to give 2-(4-phenyl-4-hydroxypiperidino-methyl)-6-methoxy-1-tetralone, m.p. 163°-165°.

reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-hydroxy-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)O)=O)O | C22H25NO3
reactant | methanol | CO | CH4O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | water | O | H2O
product | 2-(4-phenyl-4-hydroxypiperidino-methyl)-6-methoxy-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)OC)=O)O | C23H27NO3
